US07951822B2
d) Preparation of 2-(6-bromo-3-(methoxymethoxy)-2-propylbenzyloxy)tetrahydro-2H-pyrane
To a solution of 4-bromo-2-propyl-3-[(tetrahydro-2H-pyran-2-yloxy)methyl]phenol (972 mg, 2.95 mmol) in N,N-dimethylformamide (5 mL), sodium hydride (55% in oil, 257 mg, 5.90 mmol) and chloromethyl methyl ether (475 mg, 5.90 mmol) were added at 0° C. The mixture was stirred at room temperature for 2 hours. The reaction solution was added with water and extracted with ethyl acetate. Subsequently, the organic layer was washed with saturated saline, dried using anhydrous sodium sulfate, and concentrated under vacuum. The residue was purified by silica-gel column chromatography (hexane/ethyl acetate), and the title compound (910 mg, 83%) was obtained as colorless oil.

reactant | 4-bromo-2-propyl-3-[(tetrahydro-2H-pyran-2-yloxy)methyl]phenol | 2.95 mmol, 972 mg | BrC1=C(C(=C(C=C1)O)CCC)COC1OCCCC1 | C15H21BrO3
reactant | sodium hydride | 5.90 mmol, 257 mg | [H-].[Na+]
reactant | chloromethyl methyl ether | 5.90 mmol, 475 mg | COCCl | C2H5ClO
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 2-(6-bromo-3-(methoxymethoxy)-2-propylbenzyloxy)tetrahydro-2H-pyrane | 910 mg, 83% | BrC1=CC=C(C(=C1COC1OCCCC1)CCC)OCOC | C17H25BrO4
